US07291631B2
Using General Procedure A: Reaction of 2-bromomethyl-5-cyano-benzoic acid methyl ester and 2-[(1-pyridin-2-yl-ethylamino)-methyl]-2,3-dihydro-benzoimidazole-1-carboxylic acid tert-butyl ester in CH3CN with DIPEA, KI, and DMAP gave 2-{[(4-cyano-2-methoxycarbonyl-benzyl)-(1-pyridin-2-yl-ethyl)amino]-methyl}-benzoimidazole-1-carboxylic acid tert-butyl ester as a light yellow solid. 1H NMR (CDCl3) δ 1.56-1.59 (m, 3H), 1.71 (s, 9H), 3.86 (s, 3H), 4.23 (s, 1H), 4.28-4.30 (m, 2H), 4.40-4.47 (m, 2H), 7.10-7.16 (m, 1H), 7.24-7.32 (m, 3H), 7.42-7.46 (m, 1H), 7.51-7.66 (m, 2H), 7.71-7.76 (m, 1H), 7.82 (d, 1H, J=1.7 Hz), 7.92 (d, 1H, J=8.0 Hz), 8.53 (d, 1H, J=4.8 Hz).

reactant | 2-bromomethyl-5-cyano-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)C#N)CBr)=O | C10H8BrNO2
reactant | 2-[(1-pyridin-2-yl-ethylamino)-methyl]-2,3-dihydro-benzoimidazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(NC2=C1C=CC=C2)CNC(C)C2=NC=CC=C2 | C20H26N4O2
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | CC#N | C2H3N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-{[(4-cyano-2-methoxycarbonyl-benzyl)-(1-pyridin-2-yl-ethyl)amino]-methyl}-benzoimidazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CN(C(C)C2=NC=CC=C2)CC2=C(C=C(C=C2)C#N)C(=O)OC | C30H31N5O4
